US06130187
Preparation of 3-(4-chloro-2-propionyl-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 29)
1.3 g (1.4 mmol) of 3-(4-chloro-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil and 1.9 g (1.4 mmol) of aluminum chloride, were dissolved in 20 ml of nitromethane, and 0.5 g (1.4 mmol) of propionyl chloride was dropwise added thereto under cooling with ice. After completion of the dropwise addition, the mixture was stirred at room temperature for 12 hours. After completion of the reaction, the reaction solution was poured into a mixture of dilute hydrochloric acid and ice and extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated s odium chloride aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.33 g (yield: 56%) of the desired product as a yellow glassy substance. Refractive index: unmeasurable, 1H-NMR (solvent, CDCl3): 1.20(3H,m), 2.91(2H,q), 3.56(3H,s), 6.38(1H,s), 7.28(1H,d), 7.58(1H,s)ppm

reactant | 3-(4-chloro-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 1.4 mmol, 1.3 g | ClC1=CC(=C(C2=C1C=CO2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C14H7ClF4N2O3
reactant | aluminum chloride | 1.4 mmol, 1.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | propionyl chloride | 1.4 mmol, 0.5 g | C(CC)(=O)Cl | C3H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | nitromethane | 20 ml | [N+](=O)([O-])C | CH3NO2
product | 3-(4-chloro-2-propionyl-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 0.33 g, yield: 56% | ClC1=CC(=C(C2=C1C=C(O2)C(CC)=O)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C17H11ClF4N2O4
